US06194437B1
To a stirred suspension of sodium hydride (60% dispersed in oil) (4 g, 0.1 m) in DMSO (70 mL) under nitrogen at 15° C. was added dropwise a solution of 2-pyridyl acetonitrile (6 g, 51 mmol) and 1,5-dibromopentane (6.81 mL, 51 mmol) in ether (40 mL) and DMSO (10 mL) over 1 hour. The mixture was allowed to warm to room temperature and stirred for a further 24 hours under nitrogen. The reaction mixture was carefully quenched by the addition dropwise of isopropanol (10 mL), followed by water (100 mL) 10 minutes later. The reaction solution was taken up in EtOAc and washed with water. The aqueous layer was re-extracted with EtOAc, and the two organic layers were combined, dried (MgSO4), and concentrated in vacuo. The residue was purified on silica with a gradient of heptane to 9:1 heptane/EtOAc to give 1-cyano-1-(2-pyridyl)cyclohexane (6.77 g, 72%).

reactant | sodium hydride | 4 g | [H-].[Na+]
reactant | 2-pyridyl acetonitrile | 51 mmol, 6 g | N1=C(C=CC=C1)CC#N | C7H6N2
reactant | 1,5-dibromopentane | 51 mmol, 6.81 mL | BrCCCCCBr | C5H10Br2
solvent | DMSO | 70 mL | CS(=O)C | C2H6OS
solvent | ether | 40 mL | CCOCC | C4H10O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 1-cyano-1-(2-pyridyl)cyclohexane | 6.77 g, 72% | C(#N)C1(CCCCC1)C1=NC=CC=C1 | C12H14N2
